US05925630
A solution of 17β-methoxy-5α-androstan-3-one (101 mg, 0.33 mmol) in dry THF (20 mL) was treated with MeLi (1 mL, 1.5M in THF, 1.5 mmol) at -75° C. After stirring the mixture at -78° C. for 0.5 hr, the mixture was quenched with NH4Cl solution (5 mL). The solvents were removed and the residue was extracted with EtOAc. The organic layer was washed with water, and brine. After drying over anhyd. MgSO4 the solution was filtered and evaporated to yield the crude product. This crude product was then dissolved in a small amount of CH2Cl2 and poured on a column of silica gel. Elution with toluene:acetone mixture (95:5) gave 3β-methyl-3α-hydroxy-17β-methoxy-5α-androstane (35 mg); mp 151-154° C.; TLC Rf (hexane:acetone 7:3)=0.43; and then 3α-methyl-30-hydroxy-17β-methoxy-5α-androstane (30 mg) as a colorless solid; TLC Rf (hexane:acetone 7:3)=0.27.

reactant | 17β-methoxy-5α-androstan-3-one | 0.33 mmol, 101 mg | CO[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3CC(CC[C@]3(C)[C@H]1CC2)=O | C20H32O2
reactant | MeLi | 1.5 mmol, 1.5M, 1 mL | [Li]C
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3β-methyl-3α-hydroxy-17β-methoxy-5α-androstane | 35 mg | C[C@@]1(C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)OC)O | C21H36O2
